US08067621B2
Step 3: tert-Butyl-[3-(4-chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propoxy]-dimethyl-silane
2-(4-Chloro-benzenesulfonylmethyl)-1,3,4-trifluoro-benzene (4.0 g, 12.5 mmol) was dissolved in 40 mL dry DMF. (2-Bromo-ethoxy)-tert-butyl-dimethylsilane (4.1 g, 17.1 mmol) and NaH (2.28 g, 95.0 mmol) were added respectively. The solution was stirred at room temperature overnight. 200 mL of water and 200 mL of EtOAc were added. The aqueous layer washed with 100 mL of EtOAc. The combined organic layers were washed with brine (100 mL), dried over Na2SO4 and concentrated. The product was purified using column chromatography (hex./EtOAc 100/0 to 90/10 in 45 min, 1.7 g, 28%). 1H NMR (CDCl3 400 MHz) δ 7.65 (m, 2H), 7.46 (m, 2H), 7.14 (m, 1H), 6.84 (m, 0.5H), 6.73 (m, 0.5H), 4.87 (m, 1H), 4.79 (m, 1H), 4.37 (m, 1H), 2.55 (m, 2H), 2.04 (s, 9H), −0.13 (d, J=22.7 Hz, 6H).

reactant | 2-(4-Chloro-benzenesulfonylmethyl)-1,3,4-trifluoro-benzene | 12.5 mmol, 4.0 g | ClC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC(=C1F)F)F | C13H8ClF3O2S
reactant | (2-Bromo-ethoxy)-tert-butyl-dimethylsilane | 17.1 mmol, 4.1 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | NaH | 95.0 mmol, 2.28 g | [H-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl-[3-(4-chloro-benzenesulfonyl)-3-(2,3,6-trifluoro-phenyl)-propoxy]-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OCCC(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H26ClF3O3SSi
